US07115611B2
B] 2-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-isoindole-1,3-dione
0.25 g (0.94 mmol) of [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (example 1M]), 0.15 g (1.03 mmol) of phthalimide and 0.32 g (1.20 mmol) of triphenylphosphine were dissolved in 10 ml of THF. The stirred reaction mixture was cooled down to 0° C. and a solution of 0.27 g (1.15 mmol) of di-tert.-butyl azodicarboxylate in 2 ml of THF was added drop by drop. Then, the reaction was warmed up to ambient temperature. After 1 hour, the solvent was evaporated and the residue purified by crystallization from MeCl2 and n-heptane to give 0.32 g of the title compound as a colorless solid.

reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 0.94 mmol, 0.25 g | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
reactant | phthalimide | 1.03 mmol, 0.15 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 1.20 mmol, 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert.-butyl azodicarboxylate | 1.15 mmol, 0.27 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-isoindole-1,3-dione | 0.32 g | CC1=NC(=CC=C1CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C(F)(F)F | C22H15F3N2O2
